US06121476
To a solution of 4-ethylaniline (7.8 g) in diethyl ether (40 ml) were added carbon disulfide (6 g) and triethylamine (13 g). After stirring at room temperature for 2 hours, the precipitated crystals were collected by filtration and dried. The crystals (16 g) were dissolved in methanol (100 ml) and methyl iodide (7.6 g) was added dropwise thereto. The mixture was stirred at room temperature for 2 hours, acidified (pH =about 2) with in HCl and extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a solid. The solid was treated with hexane, triturated, filtered and dried to give the desired methyl 4-ethylphenyldithiocarbamate (9.5 g, yield: 67%), m.p. 78° C.

reactant | 4-ethylaniline | 7.8 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | carbon disulfide | 6 g | C(=S)=S | CS2
reactant | triethylamine | 13 g | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | methyl 4-ethylphenyldithiocarbamate | 9.5 g, yield: 67% | C(C)C1=CC=C(C=C1)NC(SC)=S | C10H13NS2
